data/oMe_Silver.jsonl
{"reaction_id": "NR-216_1-C4CCCCC4_2-CC_7-C(C)(C)C_8-C[Si](C)(C)C","level": "medium","name": "Petasis-Ferrier Rearrangement","reactants_smiles": ["C1OC(C(C4CCCCC4)(CC))CCO1","[Al](C(C)(C)C)(C[Si](C)(C)C)Cl"],"products_smiles": ["C1C(C)(C)C(=O)CCO1"],"conditions": "Me2AlCl","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C1[O+]([Al](C4CCCCC4)(CC))C(CCO1)=C(C)C","step_weight": 0,"rationale": "The carbonyl oxygen donates a lone pair to the Lewis acidic aluminum, increasing the electrophilicity of the adjacent carbon and making the system more susceptible to rearrangement."},{"step": 2,"type": "rearrangement","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C=[O+]CCC([OH])=C(C4CCCCC4)(CC)","step_weight": 0,"rationale": "Activation by aluminum stabilizes the developing positive charge in the cyclic transition state, enabling methyl migration and C–C bond reorganization via a sigmatropic pathway."},{"step": 3,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "C1C(C4CCCCC4)(CC)C(=O)CCO1","step_weight": 0,"rationale": "Dissociation of the Lewis acid restores the neutral carbonyl, driven by the thermodynamic stability of the ketone and the regeneration of the catalyst."}],"description": "Under Lewis acid catalysis by Me₂AlCl, the oxygen of the cyclic ketone coordinates to aluminum, increasing electrophilicity. This facilitates a concerted Petasis-Ferrier rearrangement via a cyclic transition state, followed by Lewis acid dissociation to yield the rearranged carbonyl product."}
